US07034015B2
N-(2-{[3-Chloro-4-(2-methylbenzoyl)phenyl]amino}phenyl)-N′-(6-hydroxyhexyl)succinamide (Compound 205)
4-(4,6-Dimethoxy-1,3,5-triazin-2-yl)-4-methylmorpholin-4-ium chloride (DMT-MM) (138 mg, 0.50 mmol) was added to a solution of N-(2-{[3-chloro-4-(2-methylbenzoyl)phenyl]amino}phenyl)-succinamic acid (200 mg, 0.46 mmol) (disclosed in WO 01/05746) and 6-aminohexanol (60 mg, 0.51 mmol) in THF (4.0 mL). The reaction mixture was stirred at room temperature for 18 h. The reaction mixture was poured into 1 N HCl (aq.) and was extracted with EtOAc (×2). The combined organic phases were washed with water, dried (MgSO4), filtered and concentrated in vacuo. The crude product was purified by flash chromatography using DCM/MeOH/NH3(aq.) 95:5:0.5 as the eluent to afford the title compound as a yellow solid.

reactant | 4-(4,6-Dimethoxy-1,3,5-triazin-2-yl)-4-methylmorpholin-4-ium chloride | 0.50 mmol, 138 mg | [Cl-].COC1=NC(=NC(=N1)OC)[N+]1(CCOCC1)C
reactant | N-(2-{[3-chloro-4-(2-methylbenzoyl)phenyl]amino}phenyl)-succinamic acid | 0.46 mmol, 200 mg | ClC=1C=C(C=CC1C(C1=C(C=CC=C1)C)=O)NC1=C(C=CC=C1)NC(CCC(=O)O)=O | C24H21ClN2O4
reactant | 6-aminohexanol | 0.51 mmol, 60 mg | NCCCCCCO | C6H15NO
reactant | HCl | 1 N | Cl | ClH
solvent | THF | 4.0 mL | C1CCOC1 | C4H8O
product | N-(2-{[3-Chloro-4-(2-methylbenzoyl)phenyl]amino}phenyl)-N′-(6-hydroxyhexyl)succinamide | ClC=1C=C(C=CC1C(C1=C(C=CC=C1)C)=O)NC1=C(C=CC=C1)NC(CCC(=O)NCCCCCCO)=O | C30H34ClN3O4
